US05110808
(4-Amino-2,6-dimethylphenylsulfonyl)nitromethane (1.0 g) was added in portions during 10 minutes to a stirred solution of oxalyl chloride (2.0 g) in dimethoxyethane (50 mL) containing calcium carbonate (1.63 g), maintained at about 0°-5° C. The mixture was then further stirred at the same temperature for 30 minutes. Diethylamine (3.4 g) was then added dropwise during 5 minutes. When the addition was complete, the reaction mixture was allowed to attain ambient temperature and the solvent was removed by evaporation in vacuo. Water (50 mL) was then added. The solid which formed was collected by filtration and purified by chromatogaphy on silica using toluene containing increasing amounts of ethyl acetate as eluant. The solid obtained from the major fractions was crystallised first from carbon tetrachloride and then from 2-propanol to give N,N-diethyl-N'-(3,5-dimethyl-4-[nitromethylsulfonyl]phenyl)oxamide as a solid, m.p. 128°-129° C.; microanalysis, found: C,48.2; H,5.5; N,11.2%; C15H21N3O6S requires: C,48.5; H,5.7; N,11.3%.

reactant | (4-Amino-2,6-dimethylphenylsulfonyl)nitromethane | 1.0 g | NC1=CC(=C(C(=C1)C)S(=O)(=O)C[N+](=O)[O-])C | C9H12N2O4S
reactant | oxalyl chloride | 2.0 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | calcium carbonate | 1.63 g | C([O-])([O-])=O.[Ca+2]
reactant | Diethylamine | 3.4 g | C(C)NCC | C4H11N
solvent | dimethoxyethane | 50 mL | C(OC)COC | C4H10O2
product | N,N-diethyl-N'-(3,5-dimethyl-4-[nitromethylsulfonyl]phenyl)oxamide | C(C)N(C(=O)C(=O)NC1=CC(=C(C(=C1)C)S(=O)(=O)C[N+](=O)[O-])C)CC | C15H21N3O6S
